US07098212B2
N-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-succinamic acid
To a solution of 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone (0.10 g, 0.26 mmol) in dichloromethane (3 mL) was added N-methylmorpholine (0.028 mL, 0.26 mmol) and succinic anhydride (0.026 g, 0.26 mmol). The reaction was stirred at ambient temperature for 3 days. The reaction was diluted with dichlormethane and washed with 1N hydrochloric acid solution. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (0.040 g, LRMS: 493.2).

reactant | 2-(3-amino-5-chloro-pyridin-2-yloxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.26 mmol, 0.10 g | NC=1C(=NC=C(C1)Cl)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C | C19H22ClFN4O2
reactant | N-methylmorpholine | 0.26 mmol, 0.028 mL | CN1CCOCC1 | C5H11NO
reactant | succinic anhydride | 0.26 mmol, 0.026 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-2-oxo-ethoxy}-pyridin-3-yl)-succinamic acid | 0.040 g | ClC=1C=C(C(=NC1)OCC(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)C)NC(CCC(=O)O)=O | C23H26ClFN4O5
